US06933322B2
5-methyl-2-phenyl-4-Chloromethyloxazole (3.34 g) is added to a chilled mixture of 2-Amino-5-naphthol (2.55 g) and sodium hydride (0.65 g) in dimethylformamide (100 mL). Let stir overnight at room temperature. Concentrate in vacuo. Redilute with ethylacetate and absorb onto silica gel. Chromatograph (ethyl acetate/hexane) to give 2-amino-5-(methyl-2-phenyl-oxazol-4-ylmethoxy)naphthalene (1.59 g, 30%). Without further characterization this amine and triethylamine (0.67 mL) were dissolved in dichloromethane (75 mL). Cooled in an acetone and dry ice bath. Triflic anhydride (0.81 mL) was added and the mixture had warmed to room temperature overnight. Partition between water and ethyl acetate. Separate and dry with magnesium sulfate. Concentrate at rotovap, and triturate with ethyl acetate to provide the title compound (0.70 g, 30%) as a white solid, m.p. 192-194° C. 1H NMR (DMSO-d6, 400 MHz): δ 2.49 (s, 3H), 5.21 (s, 2H), 7.17 (d, 1H), 7.36 (d, 1H), 7.46-755 (m, 5H), 7.73 (s, 1H), 7.93-7.97 (m, 2H), 8.13 (d, 1H). MS [EI, m/z]: 462 [M]+. Anal. Calcd. for C22H17F3N2O4S 0.75(H2O): C, 55.52; H, 3.92; N, 5.89. Found: C, 55.62; H, 4.13; N, 5.45.

reactant | 5-methyl-2-phenyl-4-Chloromethyloxazole | 3.34 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCl | C11H10ClNO
reactant | 2-Amino-5-naphthol | 2.55 g | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | sodium hydride | 0.65 g | [H-].[Na+]
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-amino-5-(methyl-2-phenyl-oxazol-4-ylmethoxy)naphthalene | 1.59 g, 30% | NC1=CC2=CC=CC(=C2C=C1)OC(C=1N=C(OC1)C1=CC=CC=C1)C | C21H18N2O2
